US04820734
A solution of 56.3 g (0.2 mol) of rac-(2S*)-2-[(R*)-2-chloro-α-(nitromethyl)benzyl]cyclohexanone in 500 ml of dry tetrahydrofuran is added dropwise while stirring to a suspension of 18.9 g (0.5 mol) of lithium aluminium hydride in 500 ml of dry tetrahydrofuran under argon so that the temperature does not exceed 50°. The reaction mixture is then stirred at 50° for a further 15 hours. After cooling the mixture is treated first with 50 ml of ethanol and subsequently with tetrahydrofuran/water (1:1), the separated precipitate is filtered off under suction while washing with methylene chloride and the filtrate is evaporated. The oily residue obtained is treated with 3N hydrochloric acid, whereupon the mixture is extracted twice with 250 ml of ether each time. The aqueous phase is made alkaline with 3N sodium hydroxide solution and extracted twice with 500 ml of methylene chloride each time. The organic phase is washed with water, dried over magnesium sulphate and evaporated. The crude product is obtained in the form of a yellow oil; it is converted into the hydrochloride in the usual manner. After repeated recrystallization from methylene chloride/methanol there is obtained rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-2-chlorobenzyl]cyclohexanol hydrochloride of m.p. 278°-280°.

reactant | rac-(2S*)-2-[(R*)-2-chloro-α-(nitromethyl)benzyl]cyclohexanone | 0.2 mol, 56.3 g | ClC1=C([C@H](C[N+](=O)[O-])C2C(CCCC2)=O)C=CC=C1 | C14H16ClNO3
reactant | lithium aluminium hydride | 0.5 mol, 18.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | O1CCCC1.O
product | rac-(1S*)-cis-2-[(R*)-α-(aminomethyl)-2-chlorobenzyl]cyclohexanol hydrochloride | Cl.NC[C@@H](C1=C(C=CC=C1)Cl)[C@@H]1[C@@H](CCCC1)O | InChI=1S/C14H20ClNO.ClH/c15-13-7-3-1-5-10(13)12(9-16)11-6-2-4-8-14(11)17;/h1,3,5,7,11-12,14,17H,2,4,6,8-9,16H2;1H/t11-,12+,14-;/m1./s1
